US05948782
A mixture of sodium iodide (1.68 g) and methyl ethyl ketone (15 ml) was stirred at 80° C. for 1 hour. Then ethyl 2-chloro-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)quinoline-3-carboxylate (2.0 g) was added, and the resulting mixture was stirred at the same temperature for 12 hours. The insoluble materials were filtered off, and the filtrate was concentrated under reduced pressure. The residue was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), and the solvent was distilled off. The residual oil was subjected to column chromatography on silica gel. From the fraction eluted with chloroform/ethyl acetate (1:1, v/v), ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-iodomethylquinoline-3-carboxylate (1.4 9, 58%) was obtained and recrystallized from ethyl acetate/hexane.

reactant | sodium iodide | 1.68 g | [I-].[Na+]
reactant | ethyl 2-chloro-6,7-dimethoxy-4-(3,4-dimethoxyphenyl)quinoline-3-carboxylate | 2.0 g | ClC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC)OC)OC | C22H22ClNO6
reactant | methyl ethyl ketone | 15 ml | C(C)C(=O)C | C4H8O
product | ethyl 6,7-dimethoxy-4-(3,4-dimethoxyphenyl)-2-iodomethylquinoline-3-carboxylate | 58% | COC=1C=C2C(=C(C(=NC2=CC1OC)CI)C(=O)OCC)C1=CC(=C(C=C1)OC)OC | C23H24INO6
